US06599902B2
To a mixture of S)-2-((R)-3-hydroxy-pyrrolidin-1-ylcarbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.8 g, 2.8 mmol) in dichloromethane (5 mL) at −78° C., was added slowly DAST (0.4 mL, 3 mmol). After stirring at room temperature for 3 h, the reaction mixture was diluted with methanol and concentrated. The residue was dissolved in EtOAc and washed with sodium bicarbonate solution (3×), sodium chloride (1×). After concentrating, the residue was purified to give 700 mg (87%) of (S)-2-((R)-3-fluoro-pyrrolidin-1-ylcarbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | 2-((R)-3-hydroxy-pyrrolidin-1-ylcarbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.8 mmol, 0.8 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)N1C[C@@H](CC1)O | C14H24N2O4
reactant | DAST | 3 mmol, 0.4 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (S)-2-((R)-3-fluoro-pyrrolidin-1-ylcarbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 700 mg, 87% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)N1C[C@@H](CC1)F | C14H23FN2O3
